US04271164
6-(2-Chlorophenyl)-2-methylpyrido[2,3-d]pyrimidin-7-amine
2-Chlorophenylacetonitrile 4.0 g and 4-amino-2-methylpyrimidine-5-carboxaldehyde 3.6 g are added to a solution prepared by dissolving 0.2 g of sodium metal in 40 ml of 2-ethoxy-ethanol. The mixture is heated at reflux for 2 hours, and then cooled. The crude product precipitates as a solid and is collected by filtration. After recrystallization from aqueous dimethylformamide, 3.4 g of 6-(2-chlorophenyl)-2-methylpyrido[2,3-d]pyrimidin-7-amine, mp 259°-260° C. is obtained.

reactant | 2-Chlorophenylacetonitrile | 4.0 g | ClC1=C(C=CC=C1)CC#N | C8H6ClN
reactant | 4-amino-2-methylpyrimidine-5-carboxaldehyde | 3.6 g | NC1=NC(=NC=C1C=O)C | C6H7N3O
reactant | sodium | 0.2 g | [Na] | Na
solvent | 2-ethoxy-ethanol | 40 ml | C(C)OCCO | C4H10O2
product | 6-(2-Chlorophenyl)-2-methylpyrido[2,3-d]pyrimidin-7-amine | ClC1=C(C=CC=C1)C1=CC2=C(N=C(N=C2)C)N=C1N | C14H11ClN4
